US05461079
Potassium phthalimide (20 g, 108 mmol) was added in portions over 2 h to a stirred solution of (E)-1,4-dibromobut-2-ene (10.7 g, 50 mmol ) in DMF (100 ml) at room temperature. The mixture was stirred for a further 3 d at this temperature, then poured into water (100 ml), and the mixture was extracted with dichloromethane (5×100 ml). The organic extracts were dried, filtered and concentrated in vacuo to leave DMF (ca. 30 ml), and a white solid, which was filtered off and washed with ether (3×10 ml) to give (E)-1,4-diphthalimidobut-2-ene (15.75 g, 91%). δH (90 MHz, CDCl3) 4.28 (4H, d), 5.92 (2H, m), and 7.79 (4H, m).

reactant | Potassium phthalimide | 108 mmol, 20 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | (E)-1,4-dibromobut-2-ene | 50 mmol, 10.7 g | BrC\C=C\CBr | C4H6Br2
reactant | water | 100 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (E)-1,4-diphthalimidobut-2-ene | 15.75 g, 91% | C1(C=2C(C(N1C\C=C\CN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C20H14N2O4
